US08053438B2
To a round bottomed flask was added N-(4-(3-chloropyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine (0.3000 g, 0.846 mmol) dissolved in a mixture of THF (1.353 mL) and NMP (0.338 mL). Iron(III)acetylacetonate (0.015 g, 0.042 mmol) was added and the temperature was brought to 0° C. (Tetrahydro-2H-pyran-4-yl)magnesium bromide (3.70 mL, 2.96 mmol) was added dropwise to the reaction. The reaction was quenched with sat. ammonium chloride. The reaction mixture was diluted with water and extracted with EtOAc. The organic extract was washed with water, brine, dried with magnesium sulfate, filtered, and concentrated. LC showed formation of N-(4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine and N-(4-(pyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Biotage pre-packed silica gel column (40S), eluting with a gradient of 1% to 5% MeOH in DCM, to provide N-(4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine. MS (ESI, pos. ion) m/z: 405.0 (M+1). IC50 (uM) +++++.

reactant | N-(4-(3-chloropyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine | 0.846 mmol, 0.3000 g | ClC=1C(=NC=CN1)OC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC=C2 | C17H11ClN4OS
reactant | (Tetrahydro-2H-pyran-4-yl)magnesium bromide | 2.96 mmol, 3.70 mL | O1CCC(CC1)[Mg]Br
solvent | THF | 1.353 mL | C1CCOC1 | C4H8O
solvent | NMP | 0.338 mL | CN1CCCC1=O | C5H9NO
catalyst | Iron(III)acetylacetonate | 0.042 mmol, 0.015 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Fe+3]
product | N-(4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine | O1CCC(CC1)C=1C(=NC=CN1)OC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC=C2 | C22H20N4O2S
